US07790747B2
To a solution of (R)-(−)-2-phenylglycine (3.83 g, 25.3 mmol) in 1M NaOH (35 ml) was added a solution of Boc2O (6.14 g, 28.1 mmol) in t-BuOH (20 ml). The resulting suspension was stirred at room temperature for 1 hour. The volatile solvent was removed under reduced pressure and the remaining solution was adjusted to pH 3 with 4M HCl. The resulting suspension was diluted with CHCl3 (50 ml), the layers were separated and the aqueous solution was extracted with CHCl3 (25 ml×2). The combined organic solution was dried (Na2SO4), filtered and concentrated under reduced pressure, to give crude (R)-tert-butoxycarbonylamino-phenyl-acetic acid as a colorless oil (6.92 g, quantitative).

reactant | (R)-(−)-2-phenylglycine | 25.3 mmol, 3.83 g | C1(=CC=CC=C1)[C@@H](N)C(=O)O | C8H9NO2
reactant | Boc2O | 28.1 mmol, 6.14 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1M, 35 ml | [OH-].[Na+]
solvent | t-BuOH | 20 ml | CC(C)(C)O | C4H10O
product | (R)-tert-butoxycarbonylamino-phenyl-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
